US06350907B1
Potassium hydroxide (1.21 gm, 21.6 mmol) was added to a solution of 1-(3-cyanophenyl)-4-iodo-2-methylbenzene (1.27 gm, 4.0 mmol) in ethanol (50 mL) and heated under reflux for 16 h. After being cooled, the mixture was diluted with water (100 mL) and extracted with ethyl acetate (3×50 mL). The combined organic extracts were dried (Na2SO4) and concentrated under reduced pressure to give crude product (1.08 gm). The crude product (540 mg) was purified by flash chromatography (gradient elution with dichloromethane:sat. methanolic ammonia 100:2.5 to dichloromethane:ethyl acetate 1:1 to dichloromethane:ethyl acetate:acetic acid 100:100:4), then azeotroped with ethanol, ethyl acetate and diethyl ether to give 1-(3-carbamoylphenyl)-4-iodo-2-methylbenzene (310 mg, 46%) as a buff solid.

reactant | Potassium hydroxide | 21.6 mmol, 1.21 gm | [OH-].[K+]
reactant | 1-(3-cyanophenyl)-4-iodo-2-methylbenzene | 4.0 mmol, 1.27 gm | C(#N)C=1C=C(C=CC1)C1=C(C=C(C=C1)I)C | C14H10IN
solvent | ethanol | 50 mL | C(C)O | C2H6O
solvent | water | 100 mL | O | H2O
product | 1-(3-carbamoylphenyl)-4-iodo-2-methylbenzene | 310 mg, 46% | C(N)(=O)C=1C=C(C=CC1)C1=C(C=C(C=C1)I)C | C14H12INO
